### PR TITLE
feat(Analysis/ODE/GlobalExistence): prove uniqueness and semigroup properties

### PR DESCRIPTION
**Pull request by AdoHaha**
Couple of proofs around existence theory

### CODE REVIEW

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 1]
```diff
@@ -161,16 +211,37 @@ theorem IsFundamentalSolution.add_apply'
...
-    Φ' t₀ (Φ' t₀ x t') t = Φ' t₀ x (t + t')
+    (hv : LocallyLipschitz f) (t t' : ℝ) (x : E) :
+    Φ' 0 (Φ' 0 x t') t = Φ' 0 x (t + t') := by
+  set γ₁ := Φ' 0 (Φ' 0 x t')
+  set γ₂ := fun t ↦ Φ' 0 x (t + t')
+  have hf_curve : IsIntegralCurve γ₁ (fun _ ↦ f) := hΦ.isIntegralCurve 0 (Φ' 0 x t')
+  have hg_curve : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ.isIntegralCurve 0 x).comp_add t'
+  have ht₀ : γ₁ 0 = γ₂ 0 := by
+    unfold γ₁ γ₂
+    simp [hΦ.initial]
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
    simp [γ₁, γ₂, hΦ.initial]
```
Untested, but if this does not work, use `set .. with hγ₁`

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 2]
```diff
@@ -161,16 +211,37 @@ theorem IsFundamentalSolution.add_apply'
...
+  have heq := IsIntegralCurve.eq_of_uniformlyLocallyLipschitz hv.uniformlyLocallyLipschitz
+    hf_curve hg_curve ht₀
+  exact congrFun heq t
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]: does `rw` work?

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 3]
```diff
@@ -161,16 +211,37 @@ theorem IsFundamentalSolution.add_apply'
...
+  set γ₂ := fun t ↦ Φ x (t + t')
+  rw [isFundamentalSolution_iff'] at hΦ
+  have hf_curve : IsIntegralCurve γ₁ (fun _ ↦ f) := (hΦ (Φ x t')).1
+  have hg_curve : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ x).1.comp_add t'
+  have ht₀ : γ₁ 0 = γ₂ 0 := by
+    unfold γ₁ γ₂
+    simp [(hΦ (Φ x t')).2]
+  have heq := IsIntegralCurve.eq_of_uniformlyLocallyLipschitz hv.uniformlyLocallyLipschitz
+    hf_curve hg_curve ht₀
+  exact congrFun heq t
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean:231]: same as above

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 4]
```diff
@@ -42,17 +44,65 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+  have hopen : IsOpen {s : ℝ | γ₁ s = γ₂ s} := by
+    rw [isOpen_iff_mem_nhds]
+    intro s (hs : γ₁ s = γ₂ s)
+    obtain ⟨K, U, hU, hfK⟩ := hf s (γ₁ s)
+    have hU1 : ∀ᶠ s' in 𝓝 s, γ₁ s' ∈ U :=
+      h1.continuous.continuousAt.eventually_mem hU
+    have hU' : U ∈ 𝓝 (γ₂ s) := by
+      have : γ₂ s = γ₁ s := hs.symm
+      rw [this]
+      exact hU
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
      rwa [hs.symm]
```
?

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 5]
```diff
@@ -42,17 +44,65 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+      hs
+    exact heq_ev.mono (fun s' hs' ↦ hs')
+  have huniv : {s : ℝ | γ₁ s = γ₂ s} = Set.univ := by
+    refine isClopen_iff.mp ⟨hclosed, hopen⟩ |>.resolve_left ?_
+    intro hempty
+    have : t₀ ∈ ({s : ℝ | γ₁ s = γ₂ s} : Set ℝ) := heq
+    rw [hempty] at this
+    exact this
+  ext t
+  exact Set.ext_iff.mp huniv t |>.mpr trivial
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]: `grind` should be able to prove this after you established `huniv`

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 6]
```diff
@@ -42,17 +44,65 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+
+theorem unique (hΦ : IsFundamentalSolution Φ f) (hΦ' : IsFundamentalSolution Φ' f)
+    (hf : UniformlyLocallyLipschitz f) (_hf' : Continuous f) :
+    Φ = Φ' := by
+  ext t₀ x₀ t
+  have heq := IsIntegralCurve.eq_of_uniformlyLocallyLipschitz hf
+    (hΦ.isIntegralCurve t₀ x₀) (hΦ'.isIntegralCurve t₀ x₀)
+    (by rw [hΦ.initial, hΦ'.initial])
+  exact congrFun heq t
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]: You probably can use `ext : 2` and then you don't need `congrFun` (which should not be used anyway, `rw` is probably better in this case)

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 7]
```diff
@@ -42,17 +44,65 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+    refine isClopen_iff.mp ⟨hclosed, hopen⟩ |>.resolve_left ?_
+    intro hempty
+    have : t₀ ∈ ({s : ℝ | γ₁ s = γ₂ s} : Set ℝ) := heq
+    rw [hempty] at this
+    exact this
+  ext t
+  exact Set.ext_iff.mp huniv t |>.mpr trivial
+
+theorem unique (hΦ : IsFundamentalSolution Φ f) (hΦ' : IsFundamentalSolution Φ' f)
+    (hf : UniformlyLocallyLipschitz f) (_hf' : Continuous f) :
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
    (hf : UniformlyLocallyLipschitz f) :
```

**Review by mcdoll — COMMENTED** [review]
Thanks. Some comments below.

Can you also split the input-output changes into a separate PR?

**Comment by AdoHaha** [comment]
Thanks for the review — all comments addressed, and the input/output change is now split out as #71.

New commit `address_globalexistence_comments`:

- `add_apply` / `add_apply`: `ht₀` is now `simp [γ₁, γ₂, …]`; the closing `congrFun` is replaced by `rw`.
- `eq_of_uniformlyLocallyLipschitz`: `hU'` is now `rwa [hs.symm]`; the closing is `grind`.
  (Note: `grind` cannot consume the set equality `{s | γ₁ s = γ₂ s} = Set.univ` in the pinned Mathlib — `grind [Set.ext_iff]` errors — so `huniv` is stated pointwise and the set equality is converted with `simpa [Set.ext_iff]`. The clopen argument is otherwise unchanged.)
- `unique`: closed with `ext t₀ x₀` + `rw`, and the unused `Continuous f` hypothesis is dropped.
- Also replaced the last `congrFun` in the file (in the pre-existing `add_apply'`) by `rw`, for consistency; this is why the diff touches a declaration that predates the PR.

The InputOutput proofs (`isGraph_inputOutput`, `isGraph_inputState`) now live in #71.

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 8]
```diff
@@ -155,22 +203,41 @@ theorem IsFundamentalSolution.add_apply'
...
+theorem IsFundamentalSolution.add_apply
     (hΦ : IsFundamentalSolution (fun t₀ x t ↦ Φ x (t - t₀)) (fun _ ↦ f))
     (hv : LocallyLipschitz f) (t t' : ℝ) (x : E) :
-    Φ (Φ x t') t = Φ x (t + t')
+    Φ (Φ x t') t = Φ x (t + t') := by
+  set γ₁ := Φ (Φ x t')
+  set γ₂ := fun t ↦ Φ x (t + t')
+  rw [isFundamentalSolution_iff'] at hΦ
+  have hf_curve : IsIntegralCurve γ₁ (fun _ ↦ f) := (hΦ (Φ x t')).1
+  have hg_curve : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ x).1.comp_add t'
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
  have hf : IsIntegralCurve γ₁ (fun _ ↦ f) := (hΦ (Φ x t')).1
  have hg : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ x).1.comp_add t'
```

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 9]
```diff
@@ -155,22 +203,41 @@ theorem IsFundamentalSolution.add_apply'
...
+  have ht₀ : γ₁ 0 = γ₂ 0 := by
+    simp [γ₁, γ₂, (hΦ (Φ x t')).2]
+  have heq := IsIntegralCurve.eq_of_uniformlyLocallyLipschitz hv.uniformlyLocallyLipschitz
+    hf_curve hg_curve ht₀
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
  have heq := hf.eq_of_uniformlyLocallyLipschitz hv.uniformlyLocallyLipschitz hg ht₀
```

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 10]
```diff
@@ -155,22 +203,41 @@ theorem IsFundamentalSolution.add_apply'
...
+theorem IsFundamentalSolution.add_apply''
     (hΦ : IsFundamentalSolution Φ' (fun _ ↦ f))
-    (hv : LocallyLipschitz f) (t₀ t t' : ℝ) (x : E) :
-    Φ' t₀ (Φ' t₀ x t') t = Φ' t₀ x (t + t')
+    (hv : LocallyLipschitz f) (t t' : ℝ) (x : E) :
+    Φ' 0 (Φ' 0 x t') t = Φ' 0 x (t + t') := by
+  set γ₁ := Φ' 0 (Φ' 0 x t')
+  set γ₂ := fun t ↦ Φ' 0 x (t + t')
+  have hf_curve : IsIntegralCurve γ₁ (fun _ ↦ f) := hΦ.isIntegralCurve 0 (Φ' 0 x t')
+  have hg_curve : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ.isIntegralCurve 0 x).comp_add t'
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
  have hf : IsIntegralCurve γ₁ (fun _ ↦ f) := hΦ.isIntegralCurve 0 (Φ' 0 x t')
  have hg : IsIntegralCurve γ₂ (fun _ ↦ f) := (hΦ.isIntegralCurve 0 x).comp_add t'
```

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 11]
```diff
@@ -42,17 +44,63 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+  grind
+
+theorem unique (hΦ : IsFundamentalSolution Φ f) (hΦ' : IsFundamentalSolution Φ' f)
+    (hf : UniformlyLocallyLipschitz f) :
+    Φ = Φ' := by
+  ext t₀ x₀
+  have heq := IsIntegralCurve.eq_of_uniformlyLocallyLipschitz hf
+    (hΦ.isIntegralCurve t₀ x₀) (hΦ'.isIntegralCurve t₀ x₀)
+    (by rw [hΦ.initial, hΦ'.initial])
+  rw [heq]
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
  ext t₀ x₀ : 2
  apply (hΦ.isIntegralCurve t₀ x₀).eq_of_uniformlyLocallyLipschitz hf (hΦ'.isIntegralCurve t₀ x₀)
  rw [hΦ.initial, hΦ'.initial]
```

File: DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean [hunk 12]
```diff
@@ -42,17 +44,63 @@ proof_wanted continuous (hΦ : IsFundamentalSolution Φ f)
...
+      hs
+    exact heq_ev.mono (fun s' hs' ↦ hs')
+  have huniv : ∀ s : ℝ, γ₁ s = γ₂ s := by
+    have h : {s : ℝ | γ₁ s = γ₂ s} = Set.univ := by
+      refine isClopen_iff.mp ⟨hclosed, hopen⟩ |>.resolve_left ?_
+      intro hempty
+      have : t₀ ∈ ({s : ℝ | γ₁ s = γ₂ s} : Set ℝ) := heq
+      rw [hempty] at this
+      exact this
+    simpa [Set.ext_iff] using h
```
Comment (mcdoll) [inline DynamicalSystems/Mathlib/Analysis/ODE/GlobalExistence.lean]:
```suggestion
    have heq_ev := (h1.isIntegralCurveAt s).eventuallyEq hfK hU1 (h2.isIntegralCurveAt s) hU2 hs
    exact heq_ev.mono (fun s' hs' ↦ hs')
  have huniv : ∀ s : ℝ, γ₁ s = γ₂ s := by
    suffices {s : ℝ | γ₁ s = γ₂ s} = Set.univ by simpa [Set.ext_iff]
    refine isClopen_iff.mp ⟨hclosed, hopen⟩ |>.resolve_left ?_
    have : t₀ ∈ ({s : ℝ | γ₁ s = γ₂ s} : Set ℝ) := heq
    grind
```

**Comment by AdoHaha** [comment]
Round-2 comments applied — thanks.

- `add_apply'` / `add_apply`: `hf_curve`/`hg_curve` renamed to `hf`/`hg`, and the uniqueness step is now `hf.eq_of_uniformlyLocallyLipschitz hv.uniformlyLocallyLipschitz hg ht₀` (generalized dot notation).
- `eq_of_uniformlyLocallyLipschitz`: the local-equality call now uses `(h1.isIntegralCurveAt s).eventuallyEq hfK hU1 (h2.isIntegralCurveAt s) hU2 hs`; `huniv` is shortened to `suffices … = Set.univ by simpa [Set.ext_iff]` followed by `grind`.
- `unique`: body is now `ext t₀ x₀ : 2`, `apply (hΦ.isIntegralCurve t₀ x₀).eq_of_uniformlyLocallyLipschitz hf (hΦ'.isIntegralCurve t₀ x₀)`, `rw [hΦ.initial, hΦ'.initial]`.

Commit `address_globalexistence_comments_2`. Build, lint, `lake env lean`, and the axiom audit are all clean.
